US07388061B2
(1) Synthesis of 3,5-octandione
In N2 atmosphere free of water and oxygen, to a 3-neck flask placed in an ice-bath and equipped with addition funnel and reflux condenser were successively added 0.07 mol sodium hydride and 100 ml tetrahydrofuran. To the mixture was added dropwise a solution of 0.06 mol ethyl butyrate and 0.03 mol butanone with stirring. Upon completing the addition, the mixture was heated refluxing for 4 hours. The solvent and composition with a boiling point below 110° C. were removed by distillation. To the residue was added an appropriate amount of saturated saline until the solid composition was just dissolved. The mixture was extracted with ethyl ether for three times. The organic phases were combined and dried over anhydrous sodium sulfate. The solvent was removed by distillation to give 2.4 g product.

reactant | oxygen | O=O | O2
reactant | sodium hydride | 0.07 mol | [H-].[Na+]
reactant | ethyl butyrate | 0.06 mol | C(CCC)(=O)OCC | C6H12O2
reactant | butanone | 0.03 mol | CC(CC)=O | C4H8O
solvent | N2 | N#N | N2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 3,5-octandione | 2.4 g | CCC(CC(CCC)=O)=O | C8H14O2
